US09382194B2
Preparation of N,N′-Bis-(2-hydroxy-1-hydroxymethyl-ethyl)-5-nitro-isophthalamide
Dimethyl 5-nitroisophthalate (120 g, 0.5 mol) and serinol (113.6 g, 1.25 mol) are dissolved in methanol (960 mL), and then heated to reflux for 48 h. Cooled to 20° C., the solid is collected filtration using vacuum and the filter cake washed with methanol (50 mL×3). The filter cake is then dried to constant weight to obtain 178.2 g product as a white powder in 99% yield.

reactant | Dimethyl 5-nitroisophthalate | 0.5 mol, 120 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C10H9NO6
reactant | serinol | 1.25 mol, 113.6 g | NC(CO)CO | C3H9NO2
solvent | methanol | 960 mL | CO | CH4O
product | N,N′-Bis-(2-hydroxy-1-hydroxymethyl-ethyl)-5-nitro-isophthalamide | 178.2 g, 99% yield | OCC(CO)NC(C1=CC(C(=O)NC(CO)CO)=CC(=C1)[N+](=O)[O-])=O | C14H19N3O8
